US04762829
N-(3,7,11,15-Tetramethyl-2-hexadecenoyl)-ethanolamine
The procedure of Example 1 was repeated except that 6.2 g of 3,7,11,15-tetramethyl-2-hexadecenoic acid and 1.8 ml of ethanolamine were used as starting materials. 6.7 g (yield 95%) of the title compound was obtained as a colorless oil.

reactant | 3,7,11,15-tetramethyl-2-hexadecenoic acid | 6.2 g | CC(=CC(=O)O)CCCC(CCCC(CCCC(C)C)C)C | C20H38O2
reactant | ethanolamine | 1.8 ml | C(O)CN | C2H7NO
product | N-(3,7,11,15-Tetramethyl-2-hexadecenoyl)-ethanolamine | 6.7 g, yield 95% | CC(=CC(=O)NCCO)CCCC(CCCC(CCCC(C)C)C)C | C22H43NO2
